US04327095
Triethylamine (24.5 cc) is added, at about 15° C., to a suspension of 6-hydroxy-3-methoxy-7-(7-methyl-1,8-naphthyridin-2-yl)-8-oxo-3,4,7,8-tetrahydro-2H,6H-1,4-dithiepino[2,3-c]pyrrole (7.3 g) and 1-chlorocarbonyl-4-methylpiperazine hydrochloride (11.7 g) in anhydrous methylene chloride (300 cc), and anhydrous pyridine (130 cc) is then added to the resulting mixture. The mixture is heated at 45° C. for 3 hours. 1-Chlorocarbonyl-4-methylpiperazine hydrochloride (6.0 g) is then added and the mixture is heated for a further 1/2 hour at 45° C. After cooling, the mixture is diluted by adding methylene chloride (300 cc). The organic phase is washed three times with distilled water (total 600 cc), dried over sodium sulphate and evaporated. The resulting residue (25.0 g) is dissolved in boiling acetonitrile (70 cc). After cooling the solution for 48 hours at 2° C., the resulting crystals are filtered off, washed twice with ice-cooled acetonitrile (total 20 cc) and dried under reduced pressure (20 mm Hg) at 20° C. The resulting product (5.25 g; m.p. 220° C.) is dissolved in methylene chloride (100 cc) and the solution is filtered through silica (0.2-0.5 mm; 200 g) contained in a column of diameter 2.1 cm. Elution is carried out with methylene chloride (400 cc); the eluate is discarded. Elution is continued with a mixture of methylene chloride (784 cc) and methanol (16 cc); this eluate is evaporated under reduced pressure (20 mm Hg) at a temperature below 60° C. The residue is dried under reduced pressure (0.2 mm Hg) at 50° C. 3-Methoxy-7-(7-methyl-1,8-naphthyridin-2-yl)-6-(4-methylpiperazin-1-yl)carbonyloxy-8-oxo-3,4,7,8-tetrahydro-2H,6H-1,4-dithiepino[2,3-c]pyrrole (4.2 g), melting at 225° C., is obtained.

reactant | Triethylamine | 24.5 cc | C(C)N(CC)CC | C6H15N
reactant | 6-hydroxy-3-methoxy-7-(7-methyl-1,8-naphthyridin-2-yl)-8-oxo-3,4,7,8-tetrahydro-2H,6H-1,4-dithiepino[2,3-c]pyrrole | 7.3 g | OC1C2=C(C(N1C1=NC3=NC(=CC=C3C=C1)C)=O)SCC(CS2)OC | C17H17N3O3S2
reactant | 1-chlorocarbonyl-4-methylpiperazine hydrochloride | 11.7 g | Cl.ClC(=O)N1CCN(CC1)C
reactant | pyridine | 130 cc | N1=CC=CC=C1 | C5H5N
reactant | 1-Chlorocarbonyl-4-methylpiperazine hydrochloride | 6.0 g | Cl.ClC(=O)N1CCN(CC1)C
solvent | methylene chloride | 300 cc | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 300 cc | C(Cl)Cl | CH2Cl2
product | 3-Methoxy-7-(7-methyl-1,8-naphthyridin-2-yl)-6-(4-methylpiperazin-1-yl)carbonyloxy-8-oxo-3,4,7,8-tetrahydro-2H,6H-1,4-dithiepino[2,3-c]pyrrole | 4.2 g | COC1CSC2=C(C(N(C2OC(=O)N2CCN(CC2)C)C2=NC3=NC(=CC=C3C=C2)C)=O)SC1 | C23H27N5O4S2
